US06774130B2
To a stirring suspension of 8-bromo-3-methylxanthine (prepared as described above for CT12440) (12.25 g, 50.0 mmol) and potassium carbonate (8.62 g, 62.5 mmol) in dimethylformamide (150 ml) was added methyl iodide (7.81 g, 55.0 mmol). After stirring overnight at room temperature, the mixture was poured into ice cold water (400 ml) and stirred at 0-5° C. for 1 hour. The precipitate was filtered, rinsed with water (5×25 ml) and dried under vacuum to provide 8-bromo-3,7-dimethylxanthine (12.10 g, 93% yield) as a beige solid.

reactant | 8-bromo-3-methylxanthine | 50.0 mmol, 12.25 g | BrC1=NC=2N(C(NC(C2N1)=O)=O)C | C6H5BrN4O2
reactant | potassium carbonate | 62.5 mmol, 8.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 55.0 mmol, 7.81 g | CI | CH3I
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 8-bromo-3,7-dimethylxanthine | 12.10 g, 93% yield | BrC1=NC=2N(C(NC(C2N1C)=O)=O)C | C7H7BrN4O2
